US09107916B2
A. [4-chloro-2-(2-methylpropoxy)phenyl]methanol
The title compound was prepared from 5-chloro-2-(hydroxymethyl)phenol (PREPARATION 7) and 1-bromo-2-methylpropane according to the procedure for the preparation of Example 111, part A. 1H NMR (400 MHz, CDCl3): δ 1.04 (6H, d, J=6.8 Hz), 2.07-2.17 (1H, m), 2.29 (1H, s), 3.75 (2H, d, J=6.4 Hz), 4.65 (2H, d, J=4.8 Hz), 6.83 (1H, d, J=2.0 Hz), 6.90 (1H, dd, J=2.0 Hz, 8.0 Hz), 7.20 (1H, d, J=8.0 Hz).

reactant | 5-chloro-2-(hydroxymethyl)phenol | ClC=1C=CC(=C(C1)O)CO | C7H7ClO2
reactant | 1-bromo-2-methylpropane | BrCC(C)C | C4H9Br
product | [4-chloro-2-(2-methylpropoxy)phenyl]methanol | ClC1=CC(=C(C=C1)CO)OCC(C)C | C11H15ClO2
